US08202879B2
4-Hydroxyquinazoline-6-carboxylic acid methoxymethylamide (XIII-1, 2.9 g) was suspended in toluene (57 ml), and 6.8 ml of triethylamine and 3.4 ml of phosphorus oxychloride were added, followed by stirring at 130° C. for 30 minutes. After completion of the reaction, the reaction mixture was cooled to room temperature, and 50 ml of aqueous saturated sodium bicarbonate solution and ethyl acetate were added. Sodium bicarbonate was added until the aqueous layer exhibited a pH 8, followed by extraction with ethyl acetate. The organic layer was washed with aqueous saturated sodium bicarbonate solution, dried over sodium sulfate. After concentration, the crystalline residue was washed with diethyl ether, and dried to obtain 4-chloroquinazoline-6-carboxylic acid methoxymethylamide (XIV-1, 2.3 g) as a white solid.

reactant | 4-Hydroxyquinazoline-6-carboxylic acid methoxymethylamide | 2.9 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)O | C11H11N3O3
reactant | triethylamine | 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 3.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 57 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloroquinazoline-6-carboxylic acid methoxymethylamide | 2.3 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)Cl | C11H10ClN3O2
